US07842758B2
4-[(Trimethylsilyl)ethynyl]-N,N-dihexylaniline
4-Iodo-N,N-dihexylaniline (3.150 g, 8.13×10−3 mol), Pd(PPh3)2Cl2 (0.332 g, 4.73×10−4 mol), CuI (0.130 g, 6.83×10−4 mol) and Et3N (20 ml) were added to a 100-ml round-bottom flask. Ar was bubbled into the reaction mixture for 5 min before (trimethylsilyl)acetylene (2.40 ml, 1.70×10−2 mol) was added. The reaction mixture was stirred at 45° C. for 18 h under Ar. After the solvent was removed in vacuo, the residue was chromatographed on silica gel 4:1 hexane:CHCl3 as the eluent. Yield=2.861 g (98% based on 3.150 g of 4-iodo-N,N-dihexylaniline). 1H NMR (250 MHz, CDCl3): δ 7.29 (d, 2H, J=9.0 Hz, Ph), 6.50 (d, 2H, J=9.0 Hz, Ph), 3.24 (t, 4H, J=7.7 Hz, —NCH2—), 1.43-1.65 (m, 4H, —NCH2CH2—), 1.19-1.41 (m, 12H, —CH3—), 0.89 (t, 6H, J=6.5 Hz, —CH3), 0.22 (s, 9H, Si—CH3). CI MS m/z: 358.292 ((M+H)+) (calcd 358.293).

reactant | 4-Iodo-N,N-dihexylaniline | 8.13×10−3 mol, 3.150 g | IC1=CC=C(N(CCCCCC)CCCCCC)C=C1 | C18H30IN
reactant | (trimethylsilyl)acetylene | 1.70×10−2 mol, 2.40 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 4.73×10−4 mol, 0.332 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 6.83×10−4 mol, 0.130 g | [Cu]I
solvent | Et3N | 20 ml | CCN(CC)CC | C6H15N
product | 4-[(Trimethylsilyl)ethynyl]-N,N-dihexylaniline | C[Si](C)(C)C#CC1=CC=C(N(CCCCCC)CCCCCC)C=C1 | C23H39NSi
